US07799775B2
To 14 ml of methanol, 256 mg of sodium was added at room temperature under stirring, then 1.04 g of nitroguanidine was added, followed by 45 minutes' heating under reflux. Successively, 1.70 g of ethyl 2-cyclohexanonecarboxylate was added, followed by 9 hours' heating under reflux. After cooling the reaction mixture, the solvent was distilled off under reduced pressure. Water was added to the residue, and the system was acidified with acetic acid. The precipitate was recovered by filtration and dried to provide 1.76 g (84%) of 2-nitroamino-5,6,7,8-tetrahydro-3H-quinazolin-4-one.

reactant | sodium | 256 mg | [Na] | Na
reactant | nitroguanidine | 1.04 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | ethyl 2-cyclohexanonecarboxylate | 1.70 g | CCOC(=O)C1CCCCC1=O | C9H14O3
solvent | methanol | 14 ml | CO | CH4O
product | 2-nitroamino-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 1.76 g, 84% | [N+](=O)([O-])NC1=NC=2CCCCC2C(N1)=O | C8H10N4O3
